US04801616
Alternate preparation of (2-hydroxy-4-methoxy- 3-propylphenyl)(2-hydroxyphenyl)methanone
To a stirred solution of three grams of (2,4-dihydroxy-3-propylphenyl)(2-hydroxyphenyl)methanone in 50 ml of 2-butanone were added 3.04 g of potassium carbonate and 0.52 ml of dimethyl sulfate. The mixture was stirred at reflux temperature overnight, cooled to 25° C., and poured into diethyl ether/water. The layers were separated. The organic layer was washed twice with water, once with a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated providing 2.94 g of the desired title product as an oil.

reactant | (2,4-dihydroxy-3-propylphenyl)(2-hydroxyphenyl)methanone | three grams | OC1=C(C=CC(=C1CCC)O)C(=O)C1=C(C=CC=C1)O | C16H16O4
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.52 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | diethyl ether water | C(C)OCC.O
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | (2-hydroxy-4-methoxy- 3-propylphenyl)(2-hydroxyphenyl)methanone | 2.94 g | OC1=C(C=CC(=C1CCC)OC)C(=O)C1=C(C=CC=C1)O | C17H18O4
